US05559105
h) 2-n-Butyl-1-methyl-5-(2-t-butoxycarbonylmethoxy-4-methoxythiobenzoyl)-1H-imidazole
2-n-Butyl-1-methyl-5-(2-t-butoxycarbonylmethoxy-4-methoxybenzoyl)-1H-imidazole (465 mg, 1.16 mmol) dissolved in toluene (5 ml) was mixed with 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (Lawesson's reagent) (258 mg, 0.638 mmol) and the solution heated to 95° for 1 h under argon. The reaction was cooled and the toluene solution applied directly to a silica gel column. Elution with 50% EtOAc/hexanes afforded the title compound as a deep purple-green solid. (206 mg, 53%).

reactant | 2-n-Butyl-1-methyl-5-(2-t-butoxycarbonylmethoxy-4-methoxybenzoyl)-1H-imidazole | 1.16 mmol, 465 mg | C(CCC)C=1N(C(=CN1)C(C1=C(C=C(C=C1)OC)OCC(=O)OC(C)(C)C)=O)C | C22H30N2O5
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 0.638 mmol, 258 mg | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-n-Butyl-1-methyl-5-(2-t-butoxycarbonylmethoxy-4-methoxythiobenzoyl)-1H-imidazole | C(CCC)C=1N(C(=CN1)C(C1=C(C=C(C=C1)OC)OCC(=O)OC(C)(C)C)=S)C | C22H30N2O4S
